US08252820B2
C. 2-Benzyloxy-4,6-difluoroaniline
2-Benzyloxy-4,6-difluoronitrobenzene (1.0 g, 3.77 mmol) is reduced in EtOAc (18 mL) and 100 mg of 5% platinum on carbon under a hydrogen balloon for 6 h. The mixture is filtered through Celite and solvent removed under reduced pressure. The residue is purified by column chromatography to give a yellow liquid as the title compound.

reactant | 2-Benzyloxy-4,6-difluoronitrobenzene | 3.77 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C13H9F2NO3
solvent | EtOAc | 18 mL | CCOC(=O)C | C4H8O2
catalyst | platinum on carbon | 100 mg | [Pt] | Pt
product | 2-Benzyloxy-4,6-difluoroaniline | C(C1=CC=CC=C1)OC1=C(N)C(=CC(=C1)F)F | C13H11F2NO
